US08476434B2
Synthesis of 4-Methyl-3-(3-pyrimidin-4-yl-pyridin-2-ylamino)-benzoic acid
4-(2-Chloro-pyridin-3-yl)-pyrimidine (10.4 g, 54 mmol), 3-amino-4-methylbenzoic acid (19.4 g, 128 mmol), 17 g Et3N-TFA salt (The liquid Et3N-TFA reagent was generated by adding 2.5 mL TFA dropwise to a 0° C. solution of 3 mL Et3N in isopropanol, then concentrating by rotary evaporator followed by 30 minutes under high vacuum.), and 15 mL DMSO were mixed together in a sealed tube under argon. The mixture was stirred at 95° C. for 65 h. After cooling to RT, the residue was sonicated in 100 mL methanol to break up the solids, then filtered to obtain product as a yellow solid. MS m/z=307 [M+H]+. Calc'd for C17H14N4O2: 306.33.

reactant | 4-(2-Chloro-pyridin-3-yl)-pyrimidine | 54 mmol, 10.4 g | ClC1=NC=CC=C1C1=NC=NC=C1 | C9H6ClN3
reactant | 3-amino-4-methylbenzoic acid | 128 mmol, 19.4 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
reactant | Et3N-TFA | 17 g | N(CC)(CC)CC.FC(F)(F)C(=O)O
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | Et3N | 3 mL | CCN(CC)CC | C6H15N
product | 4-Methyl-3-(3-pyrimidin-4-yl-pyridin-2-ylamino)-benzoic acid | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC=C1C1=NC=NC=C1 | C17H14N4O2
